Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
___: ___ placement of percutaneous cholecystostomy tube
___: placement of midline
 
History of Present Illness:
___ y/o M with history of C.diff x3, cholangiocarcinoma c/b
biliary obstruction and recurrent cholangitis with bacteremia
requiring multiple stent placements and prolonged IV 
antibiotics,
presents with fever to ___ in ___
and is transferred here for further management. 

Regarding his complicated medical history: he has
cholangiocarcinoma metastatic to lung and last chemo was gem/cis
___ was C8D1. He has had recurrent admissions for biliary sepsis
and cholangitis with most recent admits as detailed here: Pt
admitted to BI ___: ERCP done ___ showed obstruction 
of
both metal biliary stents. He had stents ballooned and opened.
Plastic stents threaded through. He was then readmitted in early
___ with E.coli bacteremia with presumed biliary source and he
was sent home on meropenem and PO vanc (recent c.diff on 6.9)

He was re-admitted ___ with contained gall bladder rupture
and underwent percutaneous cholecystostomy tube placement (PCT)
on ___ with gall bladder cultures growing E.coli. Due to
resistance pattern he was treated with tigecycline to complete a
7 day course which finished on ___.  He was also given
concurrent PO vancomycin given history of severe C.diff, last
dose ___. 

Pt was most recently admitted ___ - ___ for abdominal pain 
and
fevers. He was treated for cholangitis given fever and abdominal
pain and antibiotics were ultimately narrowed with discharge on
cefepime/tigecycline to finish 14 day course from last negative
blood culture (culture from ___ last positive and E.coli and
klebsiella, and biliary culture grew pseudomonas). He underwent
ERCP which cleared his biliary stents. Stool from ___ came back
positive for C.diff and he was given oral vanc to finish a ___fter antibiotics were completed.

For his current admission, he developed chills and low grade 
temp
at home roughly 9 hours prior to presentation to OSH ED and on
arrival to ED was afebrile however temp did peak at 101.8. He
reported mild RUQ pain though u/s of abdomen reportedly normal,
no free fluid (though report notes that it was a limited exam
with patency of CBD stent not adequately assessed). Pt reported
possibly a bit less drainage today and this evening. Tube site
appeared fine and nontender. Labs there showed ALT 59, AST 56, 
AP
175, TB 0.5. WBC 6.3, Hct 35.7, Plts 93, with 76% pmns and 1
band. Lactate 1.3 UA neg. CXR read as LLL infiltrate but he has
had atelectasis on prior CXR at ___ in that area. He recieved
zosyn and levoquin. His HR peaked at 110-118 when he spiked a
temp but had improved to low 100s. BP was 130-150s/70s. While he
felt somewhat improved, the hospitalist at that hospital simply
refused to accept or care for the patient so the patient was
transferred from their ED directly to ___.

On arrival to the floor he tells me that he developed a fever 2
days ago (doesn't recall numbers but >101). He also feels
pressure over the right upper quadrant and has noticed decreased
biliary drainage. At home he had usually been getting 60-70ccs
out per day but over the last two days he has only about 30 cc 
in
the bag. He also has drainage externally which is saturating the
dressing over the tube insertion site. He is concerned he pulled
out the tube because it caught on something a few days ago but 
he
isn't sure. He states his general state is very similar to what
he experienced with prior episodes of cholangitis/biliary
blockage. He denies nausea or vomiting, denies constipation. He
is not sure when he stopped the tigecycline/cefepime but states
it was a few days ago (my assumption is he likely discontinued
this on ___ given last culture positive was from ___ and DC
instructions were to continue for 14 days). No diarrhea. He is
still taking the PO vanc.

REVIEW OF SYSTEMS:
GENERAL: No recent weight changes.
HEENT: No sores in the mouth, painful swallowing, intolerance to
liquids or solids, sinus tenderness, rhinorrhea, or congestion.
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations.
PULM: No cough, shortness of breath, hemoptysis, or wheezing.
GI: No nausea, vomiting, diarrhea, constipation, hematochezia, 
or
melena.
GU: No dysuria or change in bladder habits.
MSK: No arthritis, arthralgias, myalgias, or bone pain.
DERM: Denies rashes, itching, or skin breakdown.
NEURO: No headache, visual changes, numbness/tingling,
paresthesias, or focal neurologic symptoms.
PSYCH: No feelings of depression or anxiety. All other review of
systems negative.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma.  Cytology was
suspicious for carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
C. diff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis
- ___ completed CK radiation and resume C5D1 Gem/Cis
- C8D1 gem/cis most recently D1 ___ Cycle end: ___
- numerous readmissions for C.diff and biliary sepsis in ___,
___, and ___ as detailed under HPI above

PAST MEDICAL HISTORY:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 
history of malignancy
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITAL SIGNS: 100.0 136/94  HR 107  RR 18  99% RA
GEN: NAD
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
ABD:  BS+, soft, mild epigastric and RUQ tenderness, no masses 
or
hepatosplenomegaly, + saturated dressing over RUQ gallblader
drain insertion, no erythema or drainage around the separate
biliary drain (clamped)
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes or skin breakdown
NEURO:  Cranial nerves II-XII are within normal limits excluding
visual acuity which was not assessed, no nystagmus; strength is
___ of the proximal and distal upper and lower extremities;
reflexes are 2+ of the biceps, triceps, patellar, and Achilles
tendons, toes are down bilaterally; coordination is intact.

DISCHARGE PHYSICAL EXAM
=======================
Tmax 99 Tc 98.4 BP 130/70
GEN: no acute distress 
CV: RRR, no murmurs/rubs/gallops
PULM:  CTAB
ABD:  BS+, soft, mild RUQ tenderness, biliary drain in place 
(clamped), gallbladder drain in place inferior and medial to 
biliary drain, dressing over entire RUQ area, c/d/i, no erythema 
or drainage
LIMBS:  No edema bilaterally
SKIN:  No rashes or skin breakdown
NEURO: moves all extremities well
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:30AM BLOOD WBC-9.3# RBC-3.98*# Hgb-12.0*# Hct-36.0* 
MCV-91 MCH-30.1 MCHC-33.2 RDW-16.5* Plt Ct-78*
___ 02:30AM BLOOD ___ PTT-31.6 ___
___ 02:30AM BLOOD Glucose-148* UreaN-8 Creat-0.8 Na-136 
K-3.5 Cl-98 HCO3-25 AnGap-17
___ 02:30AM BLOOD ALT-40 AST-42* LD(LDH)-122 AlkPhos-137* 
TotBili-1.5
___ 02:30AM BLOOD Albumin-4.1 Calcium-9.5 Phos-4.2 Mg-1.6

DISCHARGE LABS
==============
___ 06:55AM BLOOD WBC-3.4* RBC-3.55* Hgb-10.4* Hct-31.8* 
MCV-90 MCH-29.4 MCHC-32.7 RDW-15.5 Plt Ct-89*
___ 06:55AM BLOOD Glucose-103* UreaN-8 Creat-0.6 Na-136 
K-3.7 Cl-101 HCO3-27 AnGap-12
___ 06:55AM BLOOD ALT-23 AST-28 AlkPhos-125 TotBili-0.5
___ 06:55AM BLOOD Calcium-8.8 Phos-3.7 Mg-1.8

PERTINENT MICRO
===============
___ 2:56 pm BILE

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Preliminary): 
      THIS IS A CORRECTED REPORT ON ESCHERICHIA COLI SECOND TYPE 
___. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED BELOW, THEY ARE NOT 
PRESENT in
         this culture..  WORK UP PER ___ ___ (___) 
___. 
      ESCHERICHIA COLI.    MODERATE GROWTH. 
         Piperacillin/Tazobactam sensitivity testing confirmed 
by ___
         ___.  CEFEPIME sensitivity testing performed by 
Microscan. 
         CEFEPIME >16MCG/ML. 
      ENTEROCOCCUS FAECIUM.    MODERATE GROWTH. 
      ___ ALBICANS.    MODERATE GROWTH. 
      ESCHERICHIA COLI.    SPARSE GROWTH SECOND TYPE. 
         MEROPENEM <=1MCG/ML, sensitivity testing performed by 
Microscan. 
         Reported to and read back by ___ ___ (___) ON 
___
         10:42AM. 
         Piperacillin/Tazobactam & CEFEPIME sensitivity testing 
performed
         by ___.  PREVIOUSLY REPORTED AS ___. 
         MEROPENEM INTERMEDIATE 2MCG/ML. 
      ESCHERICHIA COLI.    MODERATE GROWTH THIRD TYPE. 
         Piperacillin/Tazobactam & CEFEPIME sensitivity testing 
performed
         by ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ENTEROCOCCUS FAECIUM
                             |          |          ESCHERICHIA 
COLI
                             |          |          |          
ESCHERICHIA COLI
                             |          |          |          |  
 
AMPICILLIN------------  =>32 R     =>32 R     =>32 R     =>32 R
AMPICILLIN/SULBACTAM--  =>32 R                =>32 R     =>32 R
CEFAZOLIN-------------  =>64 R                =>64 R     =>64 R
CEFEPIME--------------       R                     R          I
CEFTAZIDIME-----------  =>64 R                =>64 R     =>64 R
CEFTRIAXONE-----------  =>64 R                =>64 R     =>64 R
CIPROFLOXACIN---------   =>4 R                 =>4 R      =>4 R
GENTAMICIN------------   <=1 S                 <=1 S      <=1 S
LINEZOLID-------------                2 S
MEROPENEM-------------     1 S                     S   <=0.25 S
PENICILLIN G----------             =>64 R
PIPERACILLIN/TAZO----- =>128 R                     R          I
TOBRAMYCIN------------   <=1 S                 <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S                 <=1 S        2 S
VANCOMYCIN------------             =>32 R

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED.

___ 2:04 pm BILE      FROM BILIARY DRAIN. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      ENTEROCOCCUS FAECALIS.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECALIS
                             |   
AMPICILLIN------------   <=2 S
PENICILLIN G----------     2 S
VANCOMYCIN------------     2 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 3:00 am BILE      BILE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   FLUID CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED BELOW, THEY ARE NOT 
PRESENT in
         this culture.. 
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 
      ESCHERICHIA COLI.    MODERATE GROWTH. 
         Piperacillin/Tazobactam & CEFEPIME sensitivity testing 
performed
         by ___. 
      ENTEROCOCCUS FAECALIS.    QUANTITATION NOT AVAILABLE. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 
      ESCHERICHIA COLI.    SPARSE GROWTH SECOND TYPE. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------             =>32 R
AMPICILLIN/SULBACTAM--             =>32 R
CEFAZOLIN-------------             =>64 R
CEFEPIME--------------     4 S          I
CEFTAZIDIME-----------     4 S     =>64 R
CEFTRIAXONE-----------             =>64 R
CIPROFLOXACIN---------<=0.25 S      =>4 R
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S        1 S
PIPERACILLIN/TAZO-----       S          I
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----              <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 2:41 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 11:51 pm STOOL     CONSISTENCY: SOFT      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

PERTINENT IMAGING
=================
___ CT ABD/PELVIS
IMPRESSION:  
1.  Percutaneous cholecystostomy tube has retracted, with 
pigtail coiled in the abdominal wall. Dilated gallbladder with 
wall thickening and surrounding stranding is concerning for 
acute cholecystitis. 
2.  Unchanged position of biliary stents and internal-external 
biliary drain. No intrahepatic fluid collection identified. No 
interval increase in biliary duct dilation. 
3.  Stable mild splenomegaly. 
  
___ ___ PROCEDURE
IMPRESSION:  
Successful ultrasound-guided placement of ___ pigtail 
catheter into the gallbladder. Samples was sent for microbiology 
evaluation. 

 
Brief Hospital Course:
BRIEF SUMMARY
=============
___ y/o M with history of C.diff x3, cholangiocarcinoma c/b 
biliary obstruction and recurrent cholangitis with bacteremia 
requiring multiple stent placements and prolonged IV 
antibiotics, presents with fever to ___ 
___ in ___ and is transferred here for further management.

ACTIVE ISSUES
=============
# Cholecystitis - The patient has a complex infectious history, 
most recently with multidrug-resistant E.Coli and Pseudomonas 
from biliary specimen and pan-sensitive Klebsiella bacteremia. 
He presented to OSH with fevers and received Zosyn prior to 
transfer to ___. The patient received a CT abd/pelvis, which 
showed cholecystitis and displacement of his percutaneous 
cholecystostomy tube (see below). He was initially started on 
meropenem and tigecycline. Infectious disease consulted on ___, 
who recommended continuing meropenem and tigecycline pending 
culture data. A culture from the drain taken by the RN on 
admission grew moderate growth pan-sensitive pseudomonas and 
multidrug resistant E.coli. A second culture from the 
gallbladder drain obtained by interventional radiology ___ 
@ 2:04pm) showed pan-sensitive Enterococcus. A culture drawn 
from his PTBD ___ @ 2:56pm) was showing two types of E.coli 
with varying sensitivies and moderate ___. The patient had 
been afebrile since around noon on ___. Per infectious disease, 
the patient was continued on tigecycline 50 mg IV q12h for a 
total 14-day course (last dose ___. He was discontinued off of 
meropenem and started on ciprofloxacin 500 mg PO BID to cover 
pseudomonas not covered by tigecycline to complete a 14-day 
course as well (last dose ___. No fungal coverage was added 
because ___ was only seen on one culture and he improved 
without fungal coverage. The patient received placement of 
midline on ___ for IV access and was discharged on ___ with 
the midline to receive his IV tigecycline. Per infectious 
disease, he will not require OPAT enrollment or specific safety 
labs since his total course was <14 days from time of discharge. 


# Displaced percutaneous cholecystectomy drain - The patient 
reported that the tubing of his percutaneous cholecystostomy 
drain might have caught onto a kitchen cabinet at home prior to 
his admission. He noted that it was not draining as usual and 
that the dressing around his tube was saturated. The patient 
received a CT abd/pelvis, which showed cholecystitis and 
displacement of his percutaneous cholecystostomy tube. 
Interventional radiology replaced patient's drain successfully 
on ___. His T. bili downtrended from 1.5 to 0.5 on discharge. 
He will be contacted by interventional radiology regarding 
follow-up for this drain.

# Concern for left lower lobe infiltrate - There was a concern 
for a left lower lobe infiltrate on the outside hospital chest 
Xray report. However, the patient had no symptoms of cough or 
respiratory distress, making a pneumonia unlikely. He remained 
without pulmonary symptoms through the remainder of his 
admission. 

CHRONIC ISSUES
==============
# History of Clostridium difficile infection - The patient was 
last C.diff positive on ___. He has been on oral vancomycin 
which was continued 2 weeks beyond his most recent course of IV 
antibiotics. He continued to have loose stools throughout his 
admission and a C.diff was checked, which was negative. Per 
infectious disease, the patient was instructed to continue PO 
vancomycin until his other antibiotics are completed (last dose 
___. 

# Cholangiocarcinoma - Patient has stage IV cholangiocarcinoma, 
unresectable, with last chemotherapy C8D1 gemcitabine and 
cisplatin on ___. The patient was introduced to the 
palliative care team during the hospitalization. There was a 
discussion with the patient by the primary team in regards to 
code status, and the patient stated he wished to be full code at 
this time. Per the patient's outpatient oncologists, Dr. ___ 
___ Dr. ___ be deferred for a few months 
in the setting of acute infections.

# Thrombocytopenia - Patient has history of thrombocytopenia 
over the past year. His platelet count remained stable in 
70-80's this admission. 

# Pain control - The patient was continued on home oxycontin 
10mg q12 with prn oxycodone 5mg q4prn. He was requiring minimal 
prn doses throughout his hospitalization.

# Hypertension - The patient's home atenolol was held on 
admission in the setting of fever and infection. The patient's 
blood pressure was 130/70 on discharge, so his atenolol was 
restarted on discharge. Of note, patient also takes this for 
migraines.

# Benign prostatic hypertrophy - Patient was continued on home 
terazosin.

# GERD - Patient was continued on home pantoprazole.

TRANSITIONAL ISSUES
===================
# Patient was discharged on IV tigecycline, which he will 
receive via midline. He will complete a 14-day total course with 
his last dose on ___. Additionally, he was started on 
ciprofloxacin 500 mg BID for a 14-day course with last dose 
___.
# Patient was continued on PO vancomycin to be discontinued when 
he completes his other antibiotics.
# The patient will be contacted by interventional radiology in 
regards to his percutaneous cholecystostomy drain.

CODE STATUS: full confirmed w/ pt
CONTACT: Wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Vancomycin Oral Liquid ___ mg PO Q6H 
2. Docusate Sodium 100 mg PO BID 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Loratadine 10 mg PO DAILY 
5. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID:PRN rosacea 
6. OLANZapine 2.5 mg PO HS:PRN insomnia 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
10. Pantoprazole 40 mg PO Q24H 
11. Senna 8.6 mg PO BID:PRN constipation 
12. Terazosin 10 mg PO HS 
13. Mirtazapine 7.5 mg PO HS 
14. Atenolol 50 mg PO DAILY 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Loratadine 10 mg PO DAILY 
3. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID:PRN rosacea 
4. Mirtazapine 7.5 mg PO HS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at night Disp #*30 
Tablet Refills:*0
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
7. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
8. Pantoprazole 40 mg PO Q24H 
9. Terazosin 10 mg PO HS 
10. OLANZapine 2.5 mg PO HS:PRN insomnia 
11. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every 6 hours Disp 
#*40 Capsule Refills:*0
12. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*21 Tablet Refills:*0
13. Tigecycline 50 mg IV Q12H 
RX *tigecycline [Tygacil] 50 mg 50 mg IV twice a day Disp #*21 
Vial Refills:*0
14. Docusate Sodium 100 mg PO BID:PRN constipation 
hold for loose stools 
15. Senna 8.6 mg PO BID:PRN constipation 
16. Atenolol 50 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
# Cholecystitis
# Displaced percutaneous cholecystostomy drain

SECONDARY DIAGNOSIS
===================
# Clostridium difficile infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You presented with 
fever and received a CT scan of your abdomen, which showed that 
your gallbladder drain was out of place. The interventional 
radiologists were able to place a new drain in your gallbladder. 


You were also seen by the infectious disease specialists because 
you had an infection in your gallbladder. Their recommendation 
was that you continue on IV tigecycline for an additional 10 
days (last dose ___. In addition, we have started you on an 
additional antibiotic (ciprofloxacin), which you will take by 
mouth twice a day for the same amount of time (last dose ___. 

You had been taking vancomycin for a C.diff infection. The 
infectious disease doctors have recommended that you continue on 
vancomycin until you finish your other antibiotics.

You will be contacted about a follow-up appointment with Dr. 
___. If you do not hear back by the end of this upcoming 
week, please feel free to call ___.

Best,

Your ___ Care Team
 
Followup Instructions:
___